US08372842B2
Dimethyl 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)malonate (220 mg, 0.7 mmol) was placed in 1:1 THF:MeOH (3 mL). KOH (0.8 mL, 1.7 mmol) was then added, and the reaction heated to 65° C. for 6 hours. The reaction was then cooled to room temperature and concentrated to remove the THF and MeOH. The reaction was then acidified with 6M HCl and then heated to 85° C. overnight to achieve decarboxylation. The reaction was then cooled to room temperature and basicified with solid NaOH until a pH of 14. THF (10 mL) and Boc2O (5 equivalents) were then added. The reaction was stirred for 20 hours at 50° C. and then cooled to room temperature. The reaction was extracted with DCM, and the organic fraction was discarded. The aqueous fraction was then acidified to a pH of 2 with 10% aqueous citric acid and then extracted with DCM. The combined organic fractions were dried, filtered, and concentrated to give the product 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)acetic acid (130 mg, 75% yield).

reactant | Dimethyl 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)malonate | 0.7 mmol, 220 mg | C(C)(C)(C)OC(=O)N1C(CCC1(C)C)C(C(=O)OC)C(=O)OC | C16H27NO6
reactant | KOH | 1.7 mmol, 0.8 mL | [OH-].[K+]
reactant | Boc2O | 5 equivalents | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 2-(1-(tert-butoxycarbonyl)-5,5-dimethylpyrrolidin-2-yl)acetic acid | 130 mg, 75% yield | C(C)(C)(C)OC(=O)N1C(CCC1(C)C)CC(=O)O | C13H23NO4
